US06353006B1
2-Methyl-4-nitrophenyl isothiocyanate was reacted with benzylamine followed by chloroacetic acid according to Method C8a to afford 2-(2-methyl-4-nitrophenylimino)-3-(phenylmethyl)-1,3-thiazolidin-4-one.

reactant | 2-Methyl-4-nitrophenyl isothiocyanate | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C=S | C8H6N2O2S
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | chloroacetic acid | ClCC(=O)O | C2H3ClO2
product | 2-(2-methyl-4-nitrophenylimino)-3-(phenylmethyl)-1,3-thiazolidin-4-one | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SCC(N1CC1=CC=CC=C1)=O | C17H15N3O3S
